US03989832
EXAMPLE 37-PREPARATION OF 3-(5-NITRO-1-METHYL-2-IMIDAZOLYL)-6-METHOXY-S-TRIAZOLO[4,3-b]-PYRIDAZINE
1.96 g. crude 3-(5-nitro-1-methyl-2-imidazolyl)-6-chloro-s-triazolo[4,3-b]pyridazine was dissolved in 35 ml. of a mixture of dioxan and methanol (1:1), 0.84 g. sodium methylate added thereto, the reaction mixture heated under reflux for 1 hour, the solution then evaporated in a vacuum, the residue triturated with water, filtered with suction and dried at 120° C. in a vacuum. There was thus obtained 0.64 g. of the desired 3-(5-nitro-1-methyl-2-imidazolyl)-6-methoxy-s-triazolo[4,3-b]pyridazine, which has a melting point of 193° - 198° C.

reactant | 3-(5-nitro-1-methyl-2-imidazolyl)-6-chloro-s-triazolo[4,3-b]pyridazine | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)Cl | C9H6ClN7O2
reactant | dioxan | O1CCOCC1 | C4H8O2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(5-NITRO-1-METHYL-2-IMIDAZOLYL)-6-METHOXY-S-TRIAZOLO[4,3-b]-PYRIDAZINE | [N+](=O)([O-])C1=CN=C(N1C)C1=NN=C2N1N=C(C=C2)OC | C10H9N7O3
